US07419997B2
To a solution of 2,3,4,9-tetrahydro-1H-carbazol-1-one (1.5 g, 8.10 mmol) in ethanol (20 mL) was added a solution of hydroxylamine hydrochloride (1.13 g, 16.2 mmol) in water (10 mL) and a solution of sodium acetate (2.19 g, 26.7 mmol) in water (10 mL). The reaction mixture was heated at reflux for 2 h, cooled, and concentrated. The residue was diluted with water and extracted with ethyl acetate (2×100 mL). The organic phase was dried over sodium sulfate, filtered, and concentrated to a brown solid. The oxime was dissolved in THF (80 mL) and lithium aluminum hydride (1.0 M in THF, 24.3 mL) was added dropwise. The reaction was heated at reflux for 7 h and cooled in an ice bath. Methanol was added dropwise until bubbling ceased. The mixture was diluted with aqueous Na/K tartrate, stirred vigorously for 15 min and extracted with ethyl acetate (2×100 mL). The extracts were combined, dried over sodium sulfate, filtered and concentrated. The crude amine was purified by flash chromatography on silica (2% to 5% methanol/methylene chloride gradient) to provide 2,3,4,9-tetrahydro-1H-carbazol-1-amine as a brown oil. The oil was diluted in diethyl ether and HCl (1.0 M in diethyl ether) was added. The resulting precipitate was collected by filtration to provide 2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride (760 mg, 42%) as a light brown solid. 1H-NMR (CD3OD): δ 7.54 (d, 1H), 7.42 (d, 1H), 7.22 (t, 1H), 7.09 (t, 1H), 4.66 (t, 1H), 2.95-2.73 (m, 2H), 2.39-2.28 (m, 1H), 2.18-2.03 (m, 3H); MS m/z (M+1) 170.

reactant | 2,3,4,9-tetrahydro-1H-carbazol-1-one | 8.10 mmol, 1.5 g | C1(CCCC=2C3=CC=CC=C3NC12)=O | C12H11NO
reactant | hydroxylamine hydrochloride | 16.2 mmol, 1.13 g | Cl.NO
reactant | sodium acetate | 26.7 mmol, 2.19 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2,3,4,9-tetrahydro-1H-carbazol-1-amine | C1(CCCC=2C3=CC=CC=C3NC12)N | C12H14N2
